US04818765
A 1.3M solution of n-butyllithium in hexane (28 ml) is added at -78° to a solution of 2-diethoxyphosphoryl-1,3-dithiolane (8.1 g) in dry tetrahydrofuran (70 ml). The mixture is stirred for one hour at -78° and 4-fluoroacetophenone is added (4.3 g). The mixture is stirred for one more hour at the same temperature and slowly warmed to room temperature. After removal of the solvents, the residue is dissolved in dichloromethane (200 ml). The solution is washed with a 10% aqueous solution of ammonium chloride (3×100 ml) and with water (2×100 ml), dried over magnesium sulphate and evaporated in vacuo. The oily residue is purified by column chromatography on silica gel using hexane/toluene 1:1 as eluant. The product is dried in vacuo to constant weight to yield 1-(1,3-dithiolan-2-ylidene)-1-(4-fluorophenyl)-ethane, m.p. 27°-31°.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-diethoxyphosphoryl-1,3-dithiolane | 8.1 g | C(C)OP(=O)(OCC)C1SCCS1 | C7H15O3PS2
reactant | 4-fluoroacetophenone | CC(=O)C1=CC=C(C=C1)F | C8H7FO
solvent | hexane | 28 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-(1,3-dithiolan-2-ylidene)-1-(4-fluorophenyl)-ethane | S1C(SCC1)=C(C)C1=CC=C(C=C1)F | C11H11FS2
